US08609656B2
1-{4-[6-Amino-8-(1,2-dihydroxyethyl)purin-9-yl]-phenyl}-3-(4-chloro-3-(trifluoromethyl)phenyl)urea (Table 2, Compound No. 9)
In 1 mL of tetrahydrofuran, 20 mg (0.04 mmol) of 1-[4-(6-amino-8-vinylpurin-9-yl)phenyl]-3-(4-chloro-3-(trifluoromethyl)phenyl)urea was dissolved, and 20 μL of a 0.1 M osmium tetraoxide aqueous solution and 143 μL of a 3% hydrogen peroxide aqueous solution were added thereto, and the mixture solution was stirred at room temperature for 14 hours. The reaction solution was concentrated under reduced pressure and purified by a silica gel column (dichloromethane:methanol=9:1) to obtain 16.4 mg (77%) of a target product as a white crystal.

reactant | 1-[4-(6-amino-8-vinylpurin-9-yl)phenyl]-3-(4-chloro-3-(trifluoromethyl)phenyl)urea | 0.04 mmol, 20 mg | NC1=C2N=C(N(C2=NC=N1)C1=CC=C(C=C1)NC(=O)NC1=CC(=C(C=C1)Cl)C(F)(F)F)C=C | C21H15ClF3N7O
reactant | hydrogen peroxide | OO | H2O2
reactant | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
catalyst | osmium tetraoxide | 0.1 M | [Os](=O)(=O)(=O)=O
product | 1-{4-[6-Amino-8-(1,2-dihydroxyethyl)purin-9-yl]-phenyl}-3-(4-chloro-3-(trifluoromethyl)phenyl)urea | 16.4 mg, 77% | NC1=C2N=C(N(C2=NC=N1)C1=CC=C(C=C1)NC(=O)NC1=CC(=C(C=C1)Cl)C(F)(F)F)C(CO)O | C21H17ClF3N7O3
